* ts808 OPA2134 bordodynov.lib
.include "models/opamp/OPA2134/bordodynov.lib"
.include "components/potentiometer/potentiometer.sub"
.include "models/diode/1N914/onsemi.lib"
V1 vcc 0 9
Rb1 vcc vb 10k
Rb2 vb 0 10k
Cb vb 0 47u
Vin in 0 SIN(0 {amp} 1k)
Cin in inp 1u
Rin inp vb 510k
XU1 inp inn nc_U1_NC out nc_U1_COMP1 vcc nc_U1_COMP2 0 OPA2134_my
Rg inn g1 4.7k
Cg g1 vb 47n
Rf out f1 51k
Xdrive f1 f2 f2 pot_log R=500k rot={drive}
Rfx f2 inn 1m
Cf out inn 51p
D1 out inn D1N914
D2 inn out D1N914
.param amp=0.01 drive=1
.tran 0 40m 20m 5u
